US04797417
To a solution of 5-(4-diazo-3-oxobutyl)-3-methoxy-4-phenyl-2(5H)-furanone (100 mg) in methanol (2 ml) was added dropwise a solution of silver benzoate (9.6 mg) in triethylamine (0.2 ml) over a period of 10 minutes at 0° C. with stirring and the mixture was stirred for 30 minutes at ambient temperature. The reaction mixture was filtered off and the filtrate was condensed and dituted with diethyl ether. The ethereal solution was washed with lN hydrochloric acid, water and brine successively and dried. Evaporation of the solvent gave methyl 4-(4-methoxy-5-oxo-3-phenyl-2,5-dihydro2-furyl)butyrate (100 mg) as an oil.

reactant | 5-(4-diazo-3-oxobutyl)-3-methoxy-4-phenyl-2(5H)-furanone | 100 mg | [N+](=[N-])=CC(CCC1C(=C(C(O1)=O)OC)C1=CC=CC=C1)=O | C15H14N2O4
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | methanol | 2 ml | CO | CH4O
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
catalyst | silver benzoate | 9.6 mg | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | methyl 4-(4-methoxy-5-oxo-3-phenyl-2,5-dihydro2-furyl)butyrate | 100 mg | COC1=C(C(OC1=O)CCCC(=O)OC)C1=CC=CC=C1 | C16H18O5
